US08535655B2
d) (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 2,3-dihydroxypropanoate
(1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 2,2-dimethyl-1,3-dioxolane-4-carboxylate (1.00 g, 35.2 mmol) was dissolved in 98% aqueous ethanol (10 ml). Amberlyst 15 (wet) ion exchange resin (0.30 g) and bumping granulate were added. The reaction mixture was refluxed for 4 h without stirring (under argon). After that, the reaction was brought to room temperature, the resin and bumping granulate were removed and the solvent was removed under reduced pressure. The product was obtained in quantitative yield (0.94 g)

reactant | (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 2,2-dimethyl-1,3-dioxolane-4-carboxylate | 35.2 mmol, 1.00 g | CC1(OCC(O1)C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)C | C16H28O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl 2,3-dihydroxypropanoate | quantitative yield | OC(C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)CO | C13H24O4
